US06225352B1
4-(3,5-Dimethoxy-benzyloxy)-2-ethoxy-benzo[1,3]dioxole
2-Ethoxy-benzo[1,3]dioxol-4-ol (1.11 g, 6.08 mmol), 4-bromomethyl-1,3-dimethoxybenzene (1.17 g, 5.08 mmol), potassium carbonate (0.77 g, 5.59 mmol) and 18-crown-6-ether (0.13 g, 0.51 mmol) were stirred together at room temperature in acetone (40 cm3, 99%) under nitrogen for 18 hours. The solution was evaporated under reduced pressure, and the residue was taken up in dichloromethane (30 cm3) and water (30 cm3). The aqueous layer was extracted with dichloromethane (3×30 cm3), and the combined extracts were washed with water (2×50 cm3), dried (MgSO4), and evaporated under reduced pressure. The residue was chromatographed (SiO2, dichloromethane) to give the di protected pyrogallol, (1.56 g, 92%) as a clear oil.

reactant | 2-Ethoxy-benzo[1,3]dioxol-4-ol | 6.08 mmol, 1.11 g | C(C)OC1OC2=C(O1)C=CC=C2O | C9H10O4
reactant | 4-bromomethyl-1,3-dimethoxybenzene | 5.08 mmol, 1.17 g | BrCC1=C(C=C(C=C1)OC)OC | C9H11BrO2
reactant | potassium carbonate | 5.59 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 0.51 mmol, 0.13 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | pyrogallol | 1.56 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
solvent | acetone | 40 cm3 | CC(=O)C | C3H6O
product | 4-(3,5-Dimethoxy-benzyloxy)-2-ethoxy-benzo[1,3]dioxole | COC=1C=C(COC2=CC=CC=3OC(OC32)OCC)C=C(C1)OC | C18H20O6
